US06949542B2
4-(3-Pyrazin-2-yl-phenyl)-7-(2,2,2-trifluoro-ethoxy)-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from [2-[3-oxo-3-(3-pyrazin-2-yl-phenyl)-propionylamino]-5-(2,2,2-trifluoro-ethoxy)-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester (Example M103) (0.37 g, 0.62 mmol) by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as a light yellow solid (220 mg, 74%).

reactant | [2-[3-oxo-3-(3-pyrazin-2-yl-phenyl)-propionylamino]-5-(2,2,2-trifluoro-ethoxy)-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester | 0.62 mmol, 0.37 g | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)OCC(F)(F)F)C(F)(F)F)NC(CC(C1=CC(=CC=C1)C1=NC=CN=C1)=O)=O)=O | C27H24F6N4O5
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-(3-Pyrazin-2-yl-phenyl)-7-(2,2,2-trifluoro-ethoxy)-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one | N1=C(C=NC=C1)C=1C=C(C=CC1)C1=NC2=C(NC(C1)=O)C=C(C(=C2)OCC(F)(F)F)C(F)(F)F | C22H14F6N4O2
